US08957068B2
1-(5-(3-(trifluoromethyl)phenyl)pyrimidin-2-yl)ethanamine
1-(5-(3-(Trifluoromethyl)phenyl)pyrimidin-2-yl)ethanone (260 mg, 0.977 mmol), NH4OAc (1.13 g, 14.6 mmol), and NaBH3CN (245 mg, 3.91 mmol) were taken up in 8 mL 200 proof EtOH, and heated at 120° C. for 5 minutes in a microwave apparatus. The mixture was concentrated to remove the EtOH. Crude was taken up in 30 ml water+25 mL EtOAc. 6N NaOH was added until aqueous pH was ˜10. Separated layers, and extracted aqueous with EtOAc (25 ml). The combined organic layer was washed with 25 mL brine and dried with Na2SO4. Filtered and concentrated with reduced pressure to give 262 mg crude yellow oil, which was carried forward without further purification. Anal. RP-HPLC tR=0.90 min. (Column=Inertsil C8 Column, 3.0 μm, 3.0×30 mm. Column Temperature=50° C. Eluents=A: Water (5 mM Ammonium formate, 2% ACN); B: ACN. Flow Rate=2 mL/min. Gradient=0 min 5% B; 5% to 95% B in 1.70 min; 0.3 min 95% B; 2.1 min 1% B.) MS m/z 268.1 (M+H)+.

reactant | 1-(5-(3-(Trifluoromethyl)phenyl)pyrimidin-2-yl)ethanone | 0.977 mmol, 260 mg | FC(C=1C=C(C=CC1)C=1C=NC(=NC1)C(C)=O)(F)F | C13H9F3N2O
reactant | NaBH3CN | 3.91 mmol, 245 mg | [BH3-]C#N.[Na+]
solvent | EtOH | CCO | C2H6O
product | 1-(5-(3-(trifluoromethyl)phenyl)pyrimidin-2-yl)ethanamine | 262 mg | FC(C=1C=C(C=CC1)C=1C=NC(=NC1)C(C)N)(F)F | C13H12F3N3
